US08067445B2
Step 1: {2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester and cyclopropanecarbonyl chloride.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H24F3NO3
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | {2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)C1CC1)=O | C25H28F3NO4
